data/mechanism_extracts/NatCommun/10.1038_s41467-023-36000-6_sup_1.json
{"doi": "10.1038_s41467-023-36000-6_sup_1", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Electrochemical synthesis of a DABCO-derived bromine complex (PTC1-Br2) from a benzyl-DABCO chloride salt via anodic oxidation of bromide in an undivided cell with HBr additive", "mechanism_family": ["radical_anodic", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of Br- (from NaBr) at the Pt anode generates Br2, which is sequestered by the DABCO nitrogen of PTC1 to form the PTC1-Br2 charge-transfer/N-Br2 complex; HBr additive is required to enable formation of the isolable yellow solid", "key_intermediates": [{"name": "PTC1 (benzyl-DABCO chloride salt)", "smiles": "[Cl-].FC(F)(F)c1cc(CN2(CC3)CCN3CC2)cc(C(F)(F)F)c1", "role": "reactive"}, {"name": "Br2 (anodically generated)", "smiles": "BrBr", "role": "transient"}, {"name": "PTC1-Br2 complex (DABCO·Br2 adduct, yellow solid)", "smiles": null, "role": "reactive"}], "electron_flow": "At the Pt anode, Br- is oxidized to Br2; the tertiary amine of the DABCO-based PTC1 binds Br2 to give the PTC1-Br2 complex, with HBr additive protonating/balancing the system to enable productive complex isolation (without it only trace product forms).", "rate_determining_step": null, "probe_reagents": [{"name": "HBr additive (control: no additive vs 2 equiv HBr)", "smiles": "Br", "purpose": "other", "observation": "Without additive only trace PTC1-Br2 was obtained; with 2 equiv HBr the complex was isolated in 81% yield as a yellow solid"}], "evidence_types_used": ["isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "This page documents the stoichiometric electrochemical preparation and isolation/characterization (1H, 13C NMR) of the proposed bromenium/Br2-DABCO intermediate (PTC1-Br2) implicated as the active brominating species in the parent catalytic reaction; HBr appears essential to stabilize/form the isolable complex."}
